US06444668B1
A solution of 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluorobenzonitrile (0.150 g, 0.51 mmol) in DMF (5 mL) was treated at rt with sodium hydride (0.061 g, 1.53 mmol). The mixture was stirred for 30 minutes and treated with chloromethyl methylether (0.062 g, 7.7 mmol). Upon completion of the reaction, the reaction mixture was quenched with water (25 mL) and extracted with ethyl acetate (3×30 mL), dried over MgSO4, and concentrated. The residue was purified via chromatography (silica gel, 25% ethyl acetate/hexane) to give 3-fluoro-5-(1-methoxymethyl-4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-benzonitrile as a white solid (0.11 g, 65%): mp 169-171° C.; 1H-NMR (DMSO-d6) δ8.17 (bs, 1H), 8.03 (dt, 1H, J=10.4, 2.13 Hz), 7.85-7.77 (m, 3H), 7.31 (d, 1H, J=8.49 Hz), 5.33 (s, 2H), 3.35 (s, 3H), 1.7 (s, 6H); MS (APCI) m/z 341 ([M+H]+, 50%); Anal. Calc. For C19H17FN2O3: C, 65.32, H, 5.19, N, 8.02. Found: C, 64.92, H, 4.96, N, 7.73.

reactant | 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluorobenzonitrile | 0.51 mmol, 0.150 g | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(C#N)C=C(C2)F)C | C17H13FN2O2
reactant | sodium hydride | 1.53 mmol, 0.061 g | [H-].[Na+]
reactant | chloromethyl methylether | 7.7 mmol, 0.062 g | ClCOC | C2H5ClO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-fluoro-5-(1-methoxymethyl-4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-benzonitrile | 0.11 g, 65% | FC=1C=C(C#N)C=C(C1)C1=CC2=C(N(C(OC2(C)C)=O)COC)C=C1 | C19H17FN2O3
